US04110116
2-acetylamino-5-methyl-4,6-dichloro-phenol
To a mixture of 68.4 g. of 2-amino-5-methyl-4,6-dichloro-phenol hydrochloride and 96 ml. of N,N-diethylaniline in 750 ml. of acetone, 23.4 ml. of acetyl chloride were added slowly by keeping the temperature under 20° C. At the end, the reaction mixture was heated to reflux for an hour. After cooling, the solution was poured into water; the solid product, thus obtained, was collected on a buckner, washed with water until the washings were neutral and dried in a desicator at 50° C. The raw product obtained was purified by crystallization from ethyl alcohol, yielding 44 g. of a pure product with M.P. = 175°-176.5° C.

reactant | 2-amino-5-methyl-4,6-dichloro-phenol hydrochloride | Cl.NC1=C(C(=C(C(=C1)Cl)C)Cl)O
reactant | N,N-diethylaniline | C(C)N(C1=CC=CC=C1)CC | C10H15N
reactant | acetone | CC(=O)C | C3H6O
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
solvent | water | O | H2O
product | 2-acetylamino-5-methyl-4,6-dichloro-phenol | C(C)(=O)NC1=C(C(=C(C(=C1)Cl)C)Cl)O | C9H9Cl2NO2
